US07615563B2
N-[4-(Thiazol-2-ylsulfamoyl)-phenyl]-2-(8-trifluoromethyl-quinolin-4-yloxy)-acetamide
(8-Trifluoromethylquinolin-4-yloxy)-acetic acid (0.50 g, 1.84 mmol) was suspended in 20 mL DCM with rapid stirring. At rt, oxalyl chloride (0.19 mL, 1.2 equiv) was added dropwise and stirring continued for 4 h. Solvent and excess oxalyl chloride were removed in vacuo, the white residue was re-suspended in DCM, and the mixture cooled to 0° C. N′-(2-thiazolyl)sulfanilamide (0.47 g, 1.0 equiv) was added followed by pyridine (0.30 mL, 2.0 equiv). The mixture was allowed to warm to rt overnight. The solid was collected and rinsed with fresh DCM. Further purification was effected by suspending the solid in 20 mL methanol, stirring vigorously for 4 h, and filtration. After drying under vacuum, white solid 0.65 g (69%) was obtained. 1H-NMR (DMSO-d6) 5.11 (s, 2H), 6.79 (d, J=4.8 Hz, 1H), 7.12 (d, J=5.2 Hz, 1H), 7.22 (d, J=4.8 Hz, 1H), 7.71 (t, J=8.0 Hz, 1H), 8.17 (d, J=8.0 Hz, 1H), 8.55 (d, J=8.0 Hz, 1H), 8.85 (d, J=5.2 Hz, 1H),; 13C-NMR (DMSO-d6) 68.0, 103.6, 108.8, 120.0, 122.0, 124.8 (q, J=270 Hz), 125.1, 125.4, 126.4 (q, J=33 Hz), 127.7, 127.8, 129.2, 137.7, 142.1, 145.6, 153.2, 161.2, 166.5, 169.4 LC/MS (10-99%) M/Z: M+1 obs=509.5; tR=3.13 min.

reactant | (8-Trifluoromethylquinolin-4-yloxy)-acetic acid | 1.84 mmol, 0.50 g | FC(C=1C=CC=C2C(=CC=NC12)OCC(=O)O)(F)F | C12H8F3NO3
reactant | oxalyl chloride | 0.19 mL, 1.2 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N′-(2-thiazolyl)sulfanilamide | 0.47 g, 1.0 equiv | C1=CC(=CC=C1N)S(=O)(=O)NC2=NC=CS2 | C9H9N3O2S2
reactant | pyridine | 0.30 mL, 2.0 equiv | N1=CC=CC=C1 | C5H5N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(Thiazol-2-ylsulfamoyl)-phenyl]-2-(8-trifluoromethyl-quinolin-4-yloxy)-acetamide | 0.65 g, 69% | S1C(=NC=C1)NS(=O)(=O)C1=CC=C(C=C1)NC(COC1=CC=NC2=C(C=CC=C12)C(F)(F)F)=O | C21H15F3N4O4S2
